US05534518
Thionyl chloride, 8.0 grams (0.112 mole) was stirred, and 10.0 grams (0.056 mole) of 3,6,9-trioxadecanoic acid was added dropwise during a 45 minute period. Upon completion of addition, the reaction mixture was warmed to reflux where it stirred for 45 minutes. The reaction mixture was cooled, yielding 3,6,9-trioxadecanoyl chloride. An 80% yield of acid chloride was assumed.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3,6,9-trioxadecanoic acid | 0.056 mole, 10.0 grams | C(COCCOCCOC)(=O)O | C7H14O5
product | 3,6,9-trioxadecanoyl chloride | C(COCCOCCOC)(=O)Cl | C7H13ClO4
